US05220082
AlCl3 +CFCl3
500 g (3.75 mol) of AlCl3 (Aldrich-99% pure) was stirred mechanically under N2 in a r.b. flask fitted with a -80° C. condenser while 1750 mL (~2625 g, 19 mol) of CFCl3 was added over a 1.5-hr period. Reaction is very exothermic in the early stages, so addition of CFCl3 was slow at first in order to keep the temperature below 65° C., then rapid. The resulting suspension was stirred an additional 3 hrs while volatiles (CF2Cl2) were allowed to escape through the warmed condenser. The condenser was then replaced with a simple stillhead, and most of the CCl4 was distilled under reduced pressure [mainly bp 38° C. (200 mm)]. Finally, the last traces of volatiles were removed by warming the residual solid to 30°-35° C. at 0.05 mm.

reactant | AlCl3 | 3.75 mol, 500 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | CFCl3 | 19 mol, 1750 mL, ~2625 g | C(F)(Cl)(Cl)Cl | CCl3F
reactant | CF2Cl2 | C(F)(F)(Cl)Cl | CCl2F2
product | AlCl3 CFCl3 | [Al+3].[Cl-].[Cl-].[Cl-].C(F)(Cl)(Cl)Cl | InChI=1S/CCl3F.Al.3ClH/c2-1(3,4)5;;;;/h;;3*1H/q;+3;;;/p-3
